US05650428
The procedure described in Example 179 was repeated, except that (RS)-2-(4-bromobenzenesulfonylamino)-4-phenylbutanoic acid (310.3 mg) and ethyl 4-aminophenylacetate hydrochloride (201.6 mg) were condensed in THF (5 ml) in the presence of triethylamine (421.2 μl) and pivaloyl chloride (153.6 μl), and then the resulting crude product was purified by column chromatography (silica gel 50 g, hexane/ethyl acetate=3/1) to obtain (RS)-2-(4-bromobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-4-phenylbutanamide (117.6 mg).

reactant | (RS)-2-(4-bromobenzenesulfonylamino)-4-phenylbutanoic acid | 310.3 mg | BrC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)O)CCC1=CC=CC=C1 | C16H16BrNO4S
reactant | ethyl 4-aminophenylacetate hydrochloride | 201.6 mg | Cl.NC1=CC=C(C=C1)CC(=O)OCC
reactant | triethylamine | 421.2 μl | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 153.6 μl | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (RS)-2-(4-bromobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-4-phenylbutanamide | 117.6 mg | BrC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)NC1=CC=C(C=C1)CC(=O)OCC)CCC1=CC=CC=C1 | C26H27BrN2O5S
